US08012998B2
e) (3S,4R)-1-Benzyl-3-(3,4-difluoro-phenyl)-4-vinyl-pyrrolidine
To a suspension of methyltriphenylphosphonium iodide (6.35 g, 15.6 mmol) in THF (60 mL) was added n-BuLi (1.6N in heptane, 7.4 mL, 0.0119 mol) dropwise at 0° C. and stirred for one hour. To this reaction mixture was added a solution of (3R,4S)-1-benzyl-4-(3,4-difluoro-phenyl)-pyrrolidine-3-carbaldehyde 2.77 g (9.2 mmol) in THF (15 mL) dropwise at 0° C. and stirred for another one hour. The reaction was quenched by aq. ammonium chloride solution and extracted with ethylacetate. The separated organic layer was dired on anhydrous sodium sulfate and concentrated in vaccuo. The residue was purified by silica gel column chromatography eluted by a mixture of heptane and ethyl acetate (7:3) yielding 1.7 g (62%) of the title compound as a light yellow oil ES-MS m/e: 300.1 (M+H+).

reactant | methyltriphenylphosphonium iodide | 15.6 mmol, 6.35 g | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 0.0119 mol, 1.6N, 7.4 mL | [Li]CCCC
reactant | (3R,4S)-1-benzyl-4-(3,4-difluoro-phenyl)-pyrrolidine-3-carbaldehyde | 9.2 mmol, 2.77 g | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C1=CC(=C(C=C1)F)F)C=O | C18H17F2NO
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (3S,4R)-1-Benzyl-3-(3,4-difluoro-phenyl)-4-vinyl-pyrrolidine | 1.7 g, 62% | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C=C)C1=CC(=C(C=C1)F)F | C19H19F2N
